US07153849B2
(2S)-8-methyl-2-{[4-(2-naphthyl)piperazin-1-yl]methyl}-2,3-dihydro[1,4]dioxino[2,3-f]quinoline
A mixture of [(2R)-8-methyl-2,3-dihydro[1,4]dioxino[2,3-f]quinolin-2-yl]methyl 4-bromobenzenesulfonate (2.73 g, 6.06 mmol) and 1-naphthalen-2-yl-piperazine (3.86 g, 18.2 mmol) in anhydrous dimethylsulfoxide (60 mL) was heated at 50° C. overnight. The cooled reaction was diluted with saturated aqueous sodium bicarbonate (200 mL) and extracted with ethyl acetate (3×200 mL). The combined organic layers were washed with brine (300 mL), dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography on silica gel (2/2/95 methanol/ammonium hydroxide/methylene chloride) did not provide clean product. Re-chromatography on silica gel (90/5/5 ethyl acetate/hexane/triethylamine) afforded 1.80 g (69%) of the title compound as a beige solid: mg 134–137° C.; MS (ES) m/z426 [M+H]+.

reactant | [(2R)-8-methyl-2,3-dihydro[1,4]dioxino[2,3-f]quinolin-2-yl]methyl 4-bromobenzenesulfonate | 6.06 mmol, 2.73 g | BrC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1COC=2C(=C3C=CC(=NC3=CC2)C)O1 | C19H16BrNO5S
reactant | 1-naphthalen-2-yl-piperazine | 18.2 mmol, 3.86 g | C1=C(C=CC2=CC=CC=C12)N1CCNCC1 | C14H16N2
solvent | dimethylsulfoxide | 60 mL | CS(=O)C | C2H6OS
solvent | sodium bicarbonate | 200 mL | C([O-])(O)=O.[Na+]
product | (2S)-8-methyl-2-{[4-(2-naphthyl)piperazin-1-yl]methyl}-2,3-dihydro[1,4]dioxino[2,3-f]quinoline | 1.80 g, 69% | CC1=NC2=CC=C3C(=C2C=C1)O[C@H](CO3)CN3CCN(CC3)C3=CC1=CC=CC=C1C=C3 | C27H27N3O2
